US06143764
(4-fluorophenyl){4-[(6,7-Dimethoxy-4-quinolyl)oxy]phenyl}methanone [38]
4-Chloro-6,7-dimethoxyquinoline (112 mg) and commercially available 4-fluorophenyl 4-hydroxyphenyl ketone (324 mg) were mixed and stirred at 170° C. for 20 minutes. The reaction mixture was then purified in the same manner as described in Example 41 to obtain 114 mg of the title compound (yield: 57%).

reactant | 4-Chloro-6,7-dimethoxyquinoline | 112 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | 4-fluorophenyl 4-hydroxyphenyl ketone | 324 mg | OC1=CC=C(C=C1)C(=O)C1=CC=C(C=C1)F | C13H9FO2
product | (4-fluorophenyl){4-[(6,7-Dimethoxy-4-quinolyl)oxy]phenyl}methanone | 114 mg, yield: 57% | FC1=CC=C(C=C1)C(=O)C1=CC=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C24H18FNO4
